US04959363
A mixture of 1.08 g 1-(4-fluorophenyl)-1,4-di -hydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide (Example 1 h), 0.45 g N-methylenemorpholinium chloride and 10 ml DMF was heated at 100° C. for 15 min. The reaction mixture was cooled, poured into 100 ml water and the pH adjusted to 8 with saturated sodium bicarbonate solution. The solid precipitate was collected, dried and recrystallized from an acetonitrile -chloroform mixture to give 0.90 g N-(4-morpholinylmethyl)-1-(4-fluorophenyl)1,4 -dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide, m.p. 258-260° C.

reactant | 1-(4-fluorophenyl)-1,4-di -hydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide | 1.08 g | FC1=CC=C(C=C1)N1C=C(C(C2=CC=C(C=C12)C1=CC=NC=C1)=O)C(=O)N | C21H14FN3O2
reactant | N-methylenemorpholinium chloride | 0.45 g | [Cl-].C=[N+]1CCOCC1
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | N-(4-morpholinylmethyl)-1-(4-fluorophenyl)1,4 -dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide | 0.90 g | N1(CCOCC1)CNC(=O)C1=CN(C2=CC(=CC=C2C1=O)C1=CC=NC=C1)C1=CC=C(C=C1)F | C26H23FN4O3
